US06440457B1
A composition comprising a drug of the structural formula was prepared as follows: first, a drug composition was prepared by passing 840 grams of venlafaxine hydrochloride, 100 grams of hydroxypropylcellulose having a molecular weight of approximately 60,000 grams per mole, and 50 grams of polyvinylpyrrolidone having a molecular weight of approximately 40,000 grams per mole, were passed through a sizing having openings of approximately 420 microns, and mixed in a planetary mixer to yield a uniform blend. Then, anhydrous ethyl alcohol was added to the mixture with stirring to produce a cohesive damp mass. The resulting damp mass was sized through a sieve having an opening of 840 microns, producing coated venlafaxine drug, which was air dried overnight. The resulting dried coated venlafaxine drug was passed again through the sizing screen having an 840 micron opening. Next, 10 grams of magnesium stearate, sized to 180 microns, was tumble mixed into the blend.

reactant | venlafaxine hydrochloride | 840 grams | CN(C)CC(C=1C=CC(=CC1)OC)C2(CCCCC2)O.Cl
solvent | ethyl alcohol | C(C)O | C2H6O
product | venlafaxine | CN(C)CC(C=1C=CC(=CC1)OC)C2(CCCCC2)O | C17H27NO2
